US07820837B2
2-methoxy-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-one
A mixture of phosphorus(V) oxide (10 g) and methanesulfonic acid (70 mL) was stirred at 100° C. for 1 hr. The obtained solution and 5-(3-methoxyphenyl)pentanoic acid (5.28 g, 25.4 mmol) were mixed and the mixture was stirred for 1 hr. The reaction mixture was poured into iced water and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-30% ethyl acetate/hexane) to give the title compound (4.02 g, 83%) as a red-brown oil.

reactant | phosphorus(V) oxide | 10 g | [P+3]=O
reactant | methanesulfonic acid | 70 mL | CS(=O)(=O)O | CH4O3S
reactant | 5-(3-methoxyphenyl)pentanoic acid | 25.4 mmol, 5.28 g | COC=1C=C(C=CC1)CCCCC(=O)O | C12H16O3
solvent | water | O | H2O
product | 2-methoxy-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-one | 4.02 g, 83% | COC=1C=CC2=C(CCCCC2=O)C1 | C12H14O2
